US05969151
b) 2-Bromo-1-(2-chloroethoxy)-4-methoxybenzene
To a solution of 2-bromo-4methoxyphenol (20.00 g, 98.04 mmol) in 1,2-dichloroethane (50.00 mL, 0.63 mol) was added sodium hydroxide (12.00 g, 0.29 mol) and benzyltriethylammonium chloride (3.00 g) in water (150 mL). The mixture was stirred at reflux for 24 h and extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with brine and dried (Na2SO4). After removing the solvent under reduced pressure, flash chromatography (1:1 diethyl ether/hexane) of the residue gave 14.20 g (66% over two steps) of the title compound as a yellow oil: 1H NMR (250 MHz, CDCl3) d 7.09 (d, 1H), 6.82-6.72 (m, 2H), 4.27 (t, 2H), 3.75 (t, 3H), 3.71 (s, 3H).

reactant | 2-bromo-4methoxyphenol | 98.04 mmol, 20.00 g | BrC1=C(C=CC(=C1)OC)O | C7H7BrO2
reactant | 1,2-dichloroethane | 0.63 mol, 50.00 mL | ClCCCl | C2H4Cl2
reactant | sodium hydroxide | 0.29 mol, 12.00 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 3.00 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 150 mL | O | H2O
product | 2-Bromo-1-(2-chloroethoxy)-4-methoxybenzene | BrC1=C(C=CC(=C1)OC)OCCCl | C9H10BrClO2
